US07598383B2
4-(2-Fluoro-4-methylphenylamino)-1,3-dimethyl-7,8-dihydro-1H,6H-pyrido[2,3-d]pyridazine-2,5-dione
To a solution of 2-bromomethyl-4-(2-fluoro-4-methylphenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester (1 equivalent) in MeOH is added hydrazine (1.10 equivalents). After stirring for 2 hours at room temperature, the reaction mixture is heated to 40° C. for 8 hours. The reaction mixture is diluted with EtOAc and washed with water. The organic layer is dried over MgSO4, filtered, and concentrated in vacuo to give the crude material that is purified by trituration or flash column chromatography to afford the desired product as necessary.

reactant | 2-bromomethyl-4-(2-fluoro-4-methylphenylamino)-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester | 1 equivalent | C(C)OC(=O)C1=C(N(C(C(=C1NC1=C(C=C(C=C1)C)F)C)=O)C)CBr | C18H20BrFN2O3
reactant | hydrazine | 1.10 equivalents | NN | H4N2
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(2-Fluoro-4-methylphenylamino)-1,3-dimethyl-7,8-dihydro-1H,6H-pyrido[2,3-d]pyridazine-2,5-dione | FC1=C(C=CC(=C1)C)NC1=C(C(N(C=2CNNC(C21)=O)C)=O)C | C16H17FN4O2
